US08217064B2
To a stirred solution of ethyl 1-(4-amino-3-(2,2,2-trifluoroethoxy)phenyl)cyclobutanecarboxylate (2.0 g, 6.3 mmol) in dry CHCl3 (30 mL), NCS (0.842 g, 6.3 mmol) was added at 0° C. The reaction mixture was allowed to stir for 3 at room temperature to complete the reaction. The reaction mixture was diluted with water, extracted with DCM (2×100 mL), the combined organic solvents was dried over Na2SO4, filtered and concentrated in vacuo. The crude reaction mixture was purified by Flash column chromatography to yield ethyl 1-(4-amino-3-chloro-5-(2,2,2-trifluoroethoxy)phenyl)cyclobutanecarboxylate (0.4 g) as thick syrup.

reactant | ethyl 1-(4-amino-3-(2,2,2-trifluoroethoxy)phenyl)cyclobutanecarboxylate | 6.3 mmol, 2.0 g | NC1=C(C=C(C=C1)C1(CCC1)C(=O)OCC)OCC(F)(F)F | C15H18F3NO3
reactant | NCS | 6.3 mmol, 0.842 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | ethyl 1-(4-amino-3-chloro-5-(2,2,2-trifluoroethoxy)phenyl)cyclobutanecarboxylate | 0.4 g | NC1=C(C=C(C=C1OCC(F)(F)F)C1(CCC1)C(=O)OCC)Cl | C15H17ClF3NO3
